US03951999
N-Bromosuccinimide (26 g.) was added to a cold solution of 5-methyl-3-(4-chlorophenyl)-1,2-benzisoxazole (35 g.) in carbon tetrachloride (250 ml.). Benzoyl peroxide (500 mg.) was added and the mixture was heated under reflux for 3 hours in the presence of U.V. light. The solid residue was filtered off, and the filtrate was evaporated to give 5-bromomethyl-3-(4-chlorophenyl)-1,2-benzisoxazole (m.p. 142°C.).

reactant | N-Bromosuccinimide | 26 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 5-methyl-3-(4-chlorophenyl)-1,2-benzisoxazole | 35 g | CC=1C=CC2=C(C(=NO2)C2=CC=C(C=C2)Cl)C1 | C14H10ClNO
reactant | Benzoyl peroxide | 500 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 250 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromomethyl-3-(4-chlorophenyl)-1,2-benzisoxazole | BrCC=1C=CC2=C(C(=NO2)C2=CC=C(C=C2)Cl)C1 | C14H9BrClNO
